US08753857B2
1-(4-Methoxy-pyridin-3-yl)-3-(1-methyl-1H-benzoimidazol-4-yl)-thiourea
A mixture of 4-amino-1-methylbenzimidazole (0.100 g, 0.679 mmol) and 3-isothiocyanato-4-methoxy-pyridine (0.113 mg, 0.680 mmol, example 4, step a) in DMF was stirred at room temperature for 64 hours. After removal of DMF in vacuo, the residue was treated with water. The precipitated solid was filtered, washed with water, and dried to give a portion of the title compound. The filtrate was concentrated and the oily brown residue was dried under vacuum to provide a second potion of the title compound.

reactant | 4-amino-1-methylbenzimidazole | 0.679 mmol, 0.100 g | NC1=CC=CC=2N(C=NC21)C | C8H9N3
reactant | 3-isothiocyanato-4-methoxy-pyridine | N(=C=S)C=1C=NC=CC1OC | C7H6N2OS
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(4-Methoxy-pyridin-3-yl)-3-(1-methyl-1H-benzoimidazol-4-yl)-thiourea | COC1=C(C=NC=C1)NC(=S)NC1=CC=CC=2N(C=NC21)C | C15H15N5OS
